US08497281B2
Step 1: 5,6-dihydro-benzo[f]quinoline
Propargylamine (5 mL) is added to a flask charged with a stir bar, 2-tetralone (10.00 g), NaAuCl4*2H2O (0.65 g), and ethanol (50 mL) (caution: a very exothermic reaction may evolve afterwards→keep an ice bath at hand). The resulting mixture is stirred at room temperature for 15 min and then at reflux temperature for 1 h. After cooling the mixture to room temperature, the solvent is evaporated and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 60:40) to afford the title compound as an oil. Yield: 6.78 g (56% of theory); LC (method 1): tR=1.81 min; Mass spectrum (ESI+): m/z=182 [M+H]+. Alternatively, the reaction may be conducted in a microwave oven heating with microwave irradiation to 100° C. for 10 min.

reactant | Propargylamine | 5 mL | C(C#C)N | C3H5N
reactant | 2-tetralone | 10.00 g | C1C(CCC2=CC=CC=C12)=O | C10H10O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5,6-dihydro-benzo[f]quinoline | C1=CC=NC=2CCC3=C(C12)C=CC=C3 | C13H11N
